US04885307
Stage A: 1,5-dihydro-5-benzyloxy-2H-pyrrol-2-one.
A mixture of 8 g of 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one in 130 cm3 of benzyl alcohol and 4 g of Amberlite IR 120 H is heated for 3 hours at 60° C. The benzyl alcohol is distilled off at 65° C. under 0.3 mbar. then is drawn off under azeotropic form first with water and then with benzene. 13.6 g of the expected product is obtained, which is unstable on distilling.

reactant | 1,5-dihydro-5-hydroxy-2H-pyrrol-2-one | 8 g | OC1C=CC(N1)=O | C4H5NO2
reactant | benzyl alcohol | 130 cm3 | C(C1=CC=CC=C1)O | C7H8O
product | 1,5-dihydro-5-benzyloxy-2H-pyrrol-2-one | 13.6 g | C(C1=CC=CC=C1)OC1C=CC(N1)=O | C11H11NO2
